US09388176B2
4-(3-Hydroxypyrrolidin-1-yl)-pyridine-2-carboxylic acid phenylamide
A solution of dl-3-pyrrolidinol (0.17 g, 1.95 mmol) and 4-bromo-pyridine-2-carboxylic acid phenylamide (0.36 g, 1.3 mmol) in 1-butanol (25 mL) was heated at 100° C. for 15 hours. The reaction was applied to silica gel (25 g) and eluted with chloroform then chloroform:methanol 9:1 to give the title compound 227 mg (0.80 mmol, 61%).

reactant | dl-3-pyrrolidinol | 1.95 mmol, 0.17 g | C1CNCC1O | C4H9NO
reactant | 4-bromo-pyridine-2-carboxylic acid phenylamide | 1.3 mmol, 0.36 g | C1(=CC=CC=C1)NC(=O)C1=NC=CC(=C1)Br | C12H9BrN2O
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | 1-butanol | 25 mL | C(CCC)O | C4H10O
product | 4-(3-Hydroxypyrrolidin-1-yl)-pyridine-2-carboxylic acid phenylamide | 0.80 mmol, 227 mg, 61% | C1(=CC=CC=C1)NC(=O)C1=NC=CC(=C1)N1CC(CC1)O | C16H17N3O2
